US07553836B2
Step A. Preparation of N-((1,3-dioxolan-2-yl)methyl)-3-methoxy-4-(2-(pyrrolidin-1-yl)ethoxy)aniline
A suspension of K2CO3 (235 mg, 1.70 mmol), 2-(bromomethyl)-1,3-dioxolane (400 mg, 1.70 mmol), and 3-methoxy-4-(2-(pyrrolidin-1-yl)ethoxy)benzenamine (3.0 g, 14.5 mmol), preparation described in Patent: WO2002/101146, in DMSO (17 mL) was heated at 80° C. for 24 hr. After removal of any precipitate by filtration, the filtrate was partitioned between EtOAc/H2O (100/20 mL). The organic layer was washed with brine and dried over MgSO4. After removal of the solvent under vacuum, the residue was chromatographed on silica gel using 0%-20% gradient EtOAc/Hexanes to elute the title compound as a yellow brownish oil (150 mg, 27%) MS (ESI) 323 (M+H)+.

reactant | K2CO3 | 1.70 mmol, 235 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(bromomethyl)-1,3-dioxolane | 1.70 mmol, 400 mg | BrCC1OCCO1 | C4H7BrO2
reactant | 3-methoxy-4-(2-(pyrrolidin-1-yl)ethoxy)benzenamine | 14.5 mmol, 3.0 g | COC=1C=C(C=CC1OCCN1CCCC1)N | C13H20N2O2
solvent | DMSO | 17 mL | CS(=O)C | C2H6OS
product | N-((1,3-dioxolan-2-yl)methyl)-3-methoxy-4-(2-(pyrrolidin-1-yl)ethoxy)aniline | O1C(OCC1)CNC1=CC(=C(C=C1)OCCN1CCCC1)OC | C17H26N2O4
